US07005432B2
3-(2-Methyl-imidazol-1-yl-methyl)-5-naphthalen-1-yl-pyridazine hydrochloride
The title compound, MS: m/e=301.3 (M+H+), was prepared from 1-naphtylboronic acid and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 1-naphtylboronic acid | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 3-(2-Methyl-imidazol-1-yl-methyl)-5-naphthalen-1-yl-pyridazine hydrochloride | Cl.CC=1N(C=CN1)CC=1N=NC=C(C1)C1=CC=CC2=CC=CC=C12 | InChI=1S/C19H16N4.ClH/c1-14-20-9-10-23(14)13-17-11-16(12-21-22-17)19-8-4-6-15-5-2-3-7-18(15)19;/h2-12H,13H2,1H3;1H
